US04129655
The starting material is prepared as follows: To the solution of 3.3 g of 1,4-benzodioxan-2-yl-acetic acid in 30 ml of tetrahydrofuran, 3.1 g of 1,1'-carbonyldiimidazole are added while stirring followed, after 30 minutes, by 3.5 g of 4-ethoxy-4-phenylpiperidine in 30 ml of tetrahydrofuran. The mixture is stirred for 18 hours at room temperature, evaporated and the residue taken up in ethyl acetate. The solution is washed with water, N hydrochloric acid and saturated aqueous sodium chloride, dried and evaporated, to yield the 1-(1,4-benzodioxan-2-yl-acetyl)-4-ethoxy-4-phenylpiperidine.

reactant | 1,4-benzodioxan-2-yl-acetic acid | 3.3 g | O1C(COC2=C1C=CC=C2)CC(=O)O | C10H10O4
reactant | 1,1'-carbonyldiimidazole | 3.1 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-ethoxy-4-phenylpiperidine | 3.5 g | C(C)OC1(CCNCC1)C1=CC=CC=C1 | C13H19NO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(1,4-benzodioxan-2-yl-acetyl)-4-ethoxy-4-phenylpiperidine | O1C(COC2=C1C=CC=C2)CC(=O)N2CCC(CC2)(C2=CC=CC=C2)OCC | C23H27NO4
